US07238701B2
Step 2. Preparation of Example 14: Ethyl 4-oxo-3,4,5,6,7,8-hexahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate
In a 100 mL round-bottom flask was placed 3.5 g (11.75 mmol, 1 equiv) of 2-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-3,6-dicarboxylic acid diethyl ester in 10 mL of formamide. The flask was equipped with a reflux condenser and heated at 140° C. for 16 h. The mixture was then allowed to cool to rt and a brown solid precipitated from solution. The resulting precipitate was filtered and rinsed with EtOAc (200 mL) and dried in a hi-vac oven for 2 h. After drying 3.25 g (99%) of the desired product as a brown solid was obtained and used without further purification in the next step. LCMS RT=2.80 min; [M+H]+=279.

reactant | 2-amino-4,5,6,7-tetrahydro-benzo[b]thiophene-3,6-dicarboxylic acid diethyl ester | 11.75 mmol, 3.5 g, 1 equiv | C(C)OC(=O)C=1C2=C(SC1N)CC(CC2)C(=O)OCC | C14H19NO4S
reactant | formamide | 10 mL | C(=O)N | CH3NO
product | Ethyl 4-oxo-3,4,5,6,7,8-hexahydro[1]benzothieno[2,3-d]pyrimidine-7-carboxylate | O=C1C2=C(N=CN1)SC1=C2CCC(C1)C(=O)OCC | C13H14N2O3S
